US06528504B2
60% sodium hydride (3.60 g, 90 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (130 ml). 5,11-Dihydrodibenzo[b,e][1,4]oxazepine (14.8 g, 75.0 mmol) was added to the obtained suspension. They were stirred at room temperature for 60 minutes. A solution of ethyl bromoacetate (16.7 g, 150 mmol) in dimethyl sulfoxide (30 ml) was added dropwise in the obtained solution, and they were stirred at room temperature for 70 minutes and then at 50° C. for 2 hours. The reaction liquid was poured into 5% aqueous potassium hydrogensulfate solution. After the extraction with ethyl acetate, the organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous sodium chloride solution. After drying, the solvent was evaporated under reduced pressure. The obtained residue was dissolved in 200 ml of methanol. 200 ml of 4 M aqueous sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature for 1 hour. After the extraction with ethyl acetate, 40 ml of 6 M hydrochloric acid was added to the aqueous layer to adjust pH to 1. After the extraction with ethyl acetate, the organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous sodium chloride solution. After drying, the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with ethyl acetate and hexane (5:1) and then with ethyl acetate and hexane (1:3). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain 5,11-dihydro-5-(carboxymethyl)dibenzo[b,e][1,4] oxazepine in the form of a light yellow solid (6.40 g, 33.5%).

reactant | sodium hydride | 90 mmol, 3.60 g | [H-].[Na+]
reactant | 5,11-Dihydrodibenzo[b,e][1,4]oxazepine | 75.0 mmol, 14.8 g | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | ethyl bromoacetate | 150 mmol, 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 130 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 5,11-dihydro-5-(carboxymethyl)dibenzo[b,e][1,4] oxazepine | C(=O)(O)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C15H13NO3
